US06559149B1
Synthesis of 1-Acetyl-7-methylindoline
A solution of 7-methylindoline (10.2 g) in acetic anhydride (25 ml) was refluxed for 30 min. After cooling, the reaction solution was poured into ice water (250 ml) and the resulting crystal was filtered by means of suction, heated and vacuum dried to yield the end product (11.7 g).

reactant | 7-methylindoline | 10.2 g | CC=1C=CC=C2CCNC12 | C9H11N
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Acetyl-7-methylindoline | 11.7 g | C(C)(=O)N1CCC2=CC=CC(=C12)C | C11H13NO
